US07579359B2
The method of Part B of Example 25 was followed using N-(4-chloroquinolin-3-yl)-2-methylpropanamide (3.6 g, 14.5 mmol), O-isopropylhydroxylamine hydrochloride (1.8 g, 16 mmol) in lieu of O-methylhydroxylamine hydrochloride, and ethanol (60 mL). 1-Isopropoxy-2-isopropyl-1H-imidazo[4,5-c]quinoline (2.2 g) was obtained as a dark oil.

reactant | N-(4-chloroquinolin-3-yl)-2-methylpropanamide | 14.5 mmol, 3.6 g | ClC1=C(C=NC2=CC=CC=C12)NC(C(C)C)=O | C13H13ClN2O
reactant | O-isopropylhydroxylamine hydrochloride | 16 mmol, 1.8 g | Cl.C(C)(C)ON
reactant | O-methylhydroxylamine hydrochloride | Cl.CON
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 1-Isopropoxy-2-isopropyl-1H-imidazo[4,5-c]quinoline | 2.2 g | C(C)(C)ON1C(=NC=2C=NC=3C=CC=CC3C21)C(C)C | C16H19N3O
